US06346527B1
To a suspension of iron (reduced, 13.6 g) and ammonium chloride (1.6 g) in a mixture of methanol (140 ml) and water (50 ml) was added methyl 2,3-dihydro-7-chloro-9-nitro-1-benzoxepin-4-carboxylate (13.8 g) in portions under reflux. The reaction mixture was stirred for 6 hours under reflux. The iron powder was filtered off and the solvent was removed by concentration. The residue was diluted with ethyl acetate. The organic solvent was washed successively with saturated aqueous sodium bicarbonate and water, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel using chloroform as an eluent. The eluted fractions containing the desired product were collected and evaporated in vacuo to give methyl 2,3-dihydro-7-chloro-9-amino-1-benzoxepin-4-carboxylate (6.8 g).

reactant | ammonium chloride | 1.6 g | [Cl-].[NH4+]
reactant | methyl 2,3-dihydro-7-chloro-9-nitro-1-benzoxepin-4-carboxylate | 13.8 g | ClC=1C=C(C2=C(C=C(CCO2)C(=O)OC)C1)[N+](=O)[O-] | C12H10ClNO5
solvent | methanol | 140 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
catalyst | iron | 13.6 g | [Fe] | Fe
product | methyl 2,3-dihydro-7-chloro-9-amino-1-benzoxepin-4-carboxylate | 6.8 g | ClC=1C=C(C2=C(C=C(CCO2)C(=O)OC)C1)N | C12H12ClNO3
